US09388189B2
(S)-2-(1-((6-Amino-5-(5-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (83 mg, 0.19 mmol) was treated with 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)pyridine (130 mg, 0.47 mmol, prepared according to J. Aebi et al US 20090048238 19 Feb. 2009), sodium carbonate (2M, 350 μl, 0.70 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (15 mg, 0.02 mmol) according to the method described in Example 3 to give 37 mg (39% yield) of the title compound. Purity 99%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.19 mmol, 83 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-(trifluoromethyl)pyridine | 0.47 mmol, 130 mg | CC1(OB(OC1(C)C)C=1C=NC=C(C1)C(F)(F)F)C | C12H15BF3NO2
reactant | sodium carbonate | 0.70 mmol, 2M, 350 μl | C([O-])([O-])=O.[Na+].[Na+]
product | (S)-2-(1-((6-Amino-5-(5-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 37 mg, 39% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C=2C=NC=C(C2)C(F)(F)F | C25H21F3N8O
